US07820704B2
To the 1-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-1H-indazole-3-carboxylic acid methyl ester (150 mg, 0.22 mmol) was added LiOH (5 mL; 2N LiOH-MeOH-THF=1:1:4) and stirred at room temperature for 4 h before acidifying with 1N HCl. Brine was added and the aqueous was extracted with DCM (3×15 ml). Combined extracts were dried over Na2SO4, concentrated and purified on silica gel column to provide 1-[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-1H-indazole-3-carboxylic acid hydrochloride salt (48 mg). LCMS m/z: 365 (M+1)+.

reactant | 1-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-1H-indazole-3-carboxylic acid methyl ester | 0.22 mmol, 150 mg | COC(=O)C1=NN(C2=CC=CC=C12)C=1SC=C(N1)C1=CC=C(C=C1)C(C)C | C21H19N3O2S
reactant | LiOH | 2N, 5 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | Brine | [Cl-].[Na+].O
product | 1-[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-1H-indazole-3-carboxylic acid hydrochloride salt | 48 mg | Cl.C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N1N=C(C2=CC=CC=C12)C(=O)O | InChI=1S/C20H17N3O2S.ClH/c1-12(2)13-7-9-14(10-8-13)16-11-26-20(21-16)23-17-6-4-3-5-15(17)18(22-23)19(24)25;/h3-12H,1-2H3,(H,24,25);1H
